US06462076B2
Preparation of cis-2-(Thiophen-2-ylmethoxycarbonylamino)-cyclohexanecarboxylic Acid
To a solution of Trans-2-amino-1-cyclohexane carboxylic acid (100 mg, 0.7 mmol) in 1 mL of water is added 2M aqueous Na2CO3 until pH=9-10 (2 mL). A solution of the carbonic acid 4-nitro-phenyl ester thiophen-2-ylmethyl ester (195 mg, 0.7 mmol) in THF (1 mL) is added at 0° C. and, after 10 minutes, 1 ml of the 2M Na2CO3 is added to the reaction. The mixture is allowed to warm to RT and vigorously stirred overnight. The reaction mixture is diluted with 0.5N HCl until pH=4-3 and the water layer is extracted three times with CH2Cl2 (10 ml). The organic phases are combined, dried (MgSO4), and concentrated under reduced pressure. The resulting product is used in the next step without further purification.

reactant | Trans-2-amino-1-cyclohexane carboxylic acid | 0.7 mmol, 100 mg | N[C@H]1[C@@H](CCCC1)C(=O)O | C7H13NO2
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | carbonic acid 4-nitro-phenyl ester thiophen-2-ylmethyl ester | 0.7 mmol, 195 mg | S1C(=CC=C1)COC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H9NO5S
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | HCl | 0.5N | Cl | ClH
product | cis-2-(Thiophen-2-ylmethoxycarbonylamino)-cyclohexanecarboxylic Acid | S1C(=CC=C1)COC(=O)N[C@@H]1[C@@H](CCCC1)C(=O)O | C13H17NO4S
